US07476683B2
N-(3-t-Butyl-5-isoxazolyl)-2-chloro-acetamide
Chloroacetic acid chloride (0.25 ml; 3.14 mmol) is dropped slowly into a stirred solution of 3-t-Butyl-5-amino isoxazole (400 mg; 2.85 mmol) in pyridine (0.3 ml; 3.71 mmol) and dichloromethane (2 ml), cooled to 0° C. Stirring is continued for 2 h at room temperature. The reaction mixture is diluted with dichloromethane, washed twice with 1 N aqueous hydrochloric acid, twice with an aqueous solution of NaHCO3 and with water. The reaction mixture is then dried over Na2SO4, filtered and evaporated to yield 600 mg (97%) brownish solid of 11.

reactant | Chloroacetic acid chloride | 3.14 mmol, 0.25 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-t-Butyl-5-amino isoxazole | 2.85 mmol, 400 mg | C(C)(C)(C)C1=NOC(=C1)N | C7H12N2O
reactant | pyridine | 3.71 mmol, 0.3 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(3-t-Butyl-5-isoxazolyl)-2-chloro-acetamide | 600 mg, 97% | C(C)(C)(C)C1=NOC(=C1)NC(CCl)=O | C9H13ClN2O2
